**********************************************************************
*  (C) Copyright 2020 Toshiba Electronic Devices & Storage Corporation
*  Date:             20/05/2019
*  File Name:        CUHS20S30.lib
*  Part Number:      CUHS20S30
*  Parameter Ver.:   Ver.1
*  Simulator:        PSpice (OrCAD 17.2)
*  Model Call Name:  DIODE_CUHS20S30
*  TNOM:             25 degree
*  Pin Assign:       1=Anode 2=Cathode
*
* Operation of this model has been verified only on the OrCAD.
**********************************************************************
.SUBCKT DIODE_CUHS20S30 1 2
D1 1 2 D1
C1 1 2 1e-13
.MODEL D1 D
+ IS = 8.236e-05
+ N = 1.029
+ ISR = 1.5124e-05
+ NR = 1.2337
+ BV = 30
+ IBV = 5e-04
+ RS = 0.036914
+ TRS1 = 0.0066087
+ TRS2 = -2.2377e-05
+ CJO = 3.726e-10
+ VJ = 0.612
+ M = 0.58
+ FC = 0.5
+ TT = 0
+ EG = 0.57
+ XTI = 2.3
+ AF = 1
+ KF = 0
+ NBV = 1
+ IBVL = 0
+ NBVL = 1
+ TNOM = 25
.ENDS


